US04430423
Step (i): Synthesis of 5-Amino-4-chloro-2-[2-(2,4-di-tert-amylphenoxy)butanamido]phenol
20 g of 2-amino-4-chloro-5-nitrophenol was dispersed in 150 ml of acetonitrile to which 37.7 g of 2-(2,4-di-tert-amylphenoxy)butanoyl chloride was added dropwise under refluxing. After refluxing for 4 hours, the reaction mixture was cooled to deposit crystals. The crystals were collected by filtration, washed with acetonitrile and dried to yield 49.5 g thereof. 49 g of the crystals were refluxed with stirring for 1 hour together with 28 g of reduced iron powder, 2.7 g of ammonium chloride, 50 ml of water and 500 ml of isopropanol. After removing the iron powder by filtration, the filtrate was cooled to deposite the crystals. The crystals were collected by filtration and dried to obtain 42.4 g of the above described compound.

reactant | 2-amino-4-chloro-5-nitrophenol | 20 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | 2-(2,4-di-tert-amylphenoxy)butanoyl chloride | 37.7 g | C(C)(C)(CC)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)CC | C20H31ClO2
reactant | ammonium chloride | 2.7 g | [Cl-].[NH4+]
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | 5-Amino-4-chloro-2-[2-(2,4-di-tert-amylphenoxy)butanamido]phenol | NC=1C(=CC(=C(C1)O)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)Cl | C26H37ClN2O3
